US07495007B2
Preparation of intermediate E-6-chloro-3-(2,2-dimethyl-propylidene)-1,3-dihydro-indol-2-one
In a manner similar to the method described in example 1a, 6-chlorooxindole (0.88 g, 5 mmol) was reacted with 2,2-dimethyl-propionaldehyde (0.43 g, 5 mmol) (Aldrich), pyrrolidine (0.36 g, 5 mmol) in methanol to give a mixture of E- and Z-6-Chloro-3-(2,2-dimethyl-propylidene)-1,3-dihydro-indol-2-one. Purification by chromatography (EtOAc:hexanes=1:2) led to E-6-chloro-3-(2,2-dimethyl-propylidene)-1,3-dihydro-indol-2-one as an off-white foam (Yield 0.82 g, 70%).

reactant | 6-chlorooxindole | 5 mmol, 0.88 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 2,2-dimethyl-propionaldehyde | 5 mmol, 0.43 g | CC(C=O)(C)C | C5H10O
reactant | pyrrolidine | 5 mmol, 0.36 g | N1CCCC1 | C4H9N
solvent | methanol | CO | CH4O
product | E-6-chloro-3-(2,2-dimethyl-propylidene)-1,3-dihydro-indol-2-one | ClC1=CC=C2\C(\C(NC2=C1)=O)=C/C(C)(C)C | C13H14ClNO
